US05936089
To a mixture of 148.0 g (1.0 mol) of phthalic anhydride and 15 mL of triethylamine in 1.5 L of xylene was slowly added 108.0 g (1.0 mol) of 4-(Aminomethyl)pyridine with mechanical stirring. The resulting solid was collected by filtration. The N-Pyridin-4-ylmethyl-phthalamic acid was then cyclized, by heating 235 g (0.88 mol) to the melt stage for 15 min. The mixture was allowed to cool slightly and 2.5 L of ethanol was added to the warm reaction mixture, and the solution filtered. Upon cooling, the mixture crystallized to give 188.0 g of 2-Pyridin-4-ylmethyl-isoindole-1,3-dione (m.p. 166-167.5° C.). A mixture of 23.8 g (0.1 mol) of 2-Pyridin-4-ylmethyl-isoindole-1,3-dione and 1.3 g of platinum oxide in 400 mL of methanolic HCl was reduced at 50 psi until no starting material could be detected by TLC. The mixture was filtered through celite and concentrated to give 22.0 g of 2-Piperidin-4-ylmethyl-isoindole-1,3-dione hydrochloride as a white solid. A small sample was recrystallized from ethanol to give an analytically pure sample of 16A (m.p. 241-242.5° C.).

reactant | 2-Pyridin-4-ylmethyl-isoindole-1,3-dione | 0.1 mol, 23.8 g | N1=CC=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
reactant | HCl | 400 mL | Cl | ClH
catalyst | platinum oxide | 1.3 g | [Pt]=O
product | 2-Piperidin-4-ylmethyl-isoindole-1,3-dione hydrochloride | 22.0 g | Cl.N1CCC(CC1)CN1C(C2=CC=CC=C2C1=O)=O | InChI=1S/C14H16N2O2.ClH/c17-13-11-3-1-2-4-12(11)14(18)16(13)9-10-5-7-15-8-6-10;/h1-4,10,15H,5-9H2;1H
